US04268510
Dimethylformamide (20 ml.) and thionyl chloride (5 ml.) were stirred together, 3,4-dihydro-2-trichloromethyl-2H-benzo[e]-[1,3]-oxazin-4-one (2.0 g.) was added in small portions over 15 minutes, and the mixture was stirred at ambient temperature for 48 hours. The reaction mixture was added to water (100 ml.), stirred for 1 hour and filtered. The solid product was dissolved in toluene, and purified by column chromatography on "Kieselgel"-60 (trade mark), eluting with a mixture of 5% by volume of ethyl acetate in toluene. The solvent was evaporated, and the product was crystallised from petroleum ether (b.p. 60°-80° C.) to give 3-formyl-3,4-dihydro-2-trichloromethyl-2H-benzo[e]-[1,3]-oxazin-4-one, m.p. 114° C.

reactant | Dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3,4-dihydro-2-trichloromethyl-2H-benzo[e]-[1,3]-oxazin-4-one | 2.0 g | ClC(C1OC2=C(C(N1)=O)C=CC=C2)(Cl)Cl | C9H6Cl3NO2
solvent | water | 100 ml | O | H2O
product | 3-formyl-3,4-dihydro-2-trichloromethyl-2H-benzo[e]-[1,3]-oxazin-4-one | C(=O)N1C(OC2=C(C1=O)C=CC=C2)C(Cl)(Cl)Cl | C10H6Cl3NO3
